US07705042B2
4-Cyano-1H-pyrrole-2-carboxylic acid {2-(4-methyl-piperidin-1-yl)-4-[1-(pyridine-3-carbonyl)-piperidin-4-yl]-phenyl}-amide
A mixture of 4-cyano-1H-pyrrole-2-carboxylic acid [2-(4-methyl-piperidin-1-yl)-4-piperidin-4-yl-phenyl]-amide bis(trifluoroacetic acid salt) (as prepared in Example 35, 25.0 mg, 0.0400 mmol), nicotinoyl chloride (10.8 mg, 0.0600 mmol) and anh Na2CO3 (21.0 mg, 0.200 mmol) in 1 mL of DMF was stirred at RT for 2 days. Treated with 30 mL of EtOAc, the mixture was washed with H2O (3×10 mL), brine (10 mL) and dried (Na2SO4). Removal of the solvent under reduced pressure followed by flash chromatography of the residue on silica gel (1-3% MeOH/DCM) gave 19.6 mg (98%) of the title compound as a white solid: 1H-NMR (CDCl3; 400 MHz): δ 10.67, (s, 1H), 9.17 (s, 1H), 8.74 (d, 1H, J=1.6 Hz), 8.69 (dd, 1H, J=4.5, 1.6 Hz), 8.32 (d, 1H, J=8.4 Hz), 7.82 (ddd, 1H, J=7.7, 1.9, 1.9 Hz), 7.47 (dd, 1H, J=3.3, 1.2 Hz), 7.40 (dd, 1H, J=8.0, 4.9 Hz), 7.07 (d, 1H, J=1.9 Hz), 7.04 (dd, 1H, J=8.4, 1.9 Hz), 6.87 (s, 1H), 4.90 (s, 1H), 3.87 (s, 1H), 3.22 (s, 1H), 2.69-3.00 (m, 6H), 1.53-2.06 (m, 7H), 1.35-1.46 (m, 2H), 1.00 (d, 3H, J=6.5 Hz). Mass spectrum (ESI, m/z): Calcd. for C29H32N6O2, 497.3 (M+H), found 497.2.

reactant | 4-cyano-1H-pyrrole-2-carboxylic acid [2-(4-methyl-piperidin-1-yl)-4-piperidin-4-yl-phenyl]-amide | CC1CCN(CC1)C1=C(C=CC(=C1)C1CCNCC1)NC(=O)C=1NC=C(C1)C#N | C23H29N5O
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | nicotinoyl chloride | 0.0600 mmol, 10.8 mg | C(C1=CN=CC=C1)(=O)Cl | C6H4ClNO
reactant | Na2CO3 | 0.200 mmol, 21.0 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | 4-Cyano-1H-pyrrole-2-carboxylic acid {2-(4-methyl-piperidin-1-yl)-4-[1-(pyridine-3-carbonyl)-piperidin-4-yl]-phenyl}-amide | 19.6 mg, 98% | CC1CCN(CC1)C1=C(C=CC(=C1)C1CCN(CC1)C(=O)C=1C=NC=CC1)NC(=O)C=1NC=C(C1)C#N | C29H32N6O2
